US08293897B2
Step 2) (4-oxaspiro[2.4]heptane-6-yl)aminopropanol
To a solution of (4-oxaspiro[2.4]heptane-6-yl)methanesulfonate (336 mg, 1.75 mmol) in dry THF (3 mL) was added 3-aminopropan-1-ol (656.3 mg, 8.75 mmol, TCI). The reaction was refluxed overnight. The mixture was concentrated in vacuo to give a brown residue, which was chromatographed with a silica gel column (8:1 (v/v) EtOAc/MeOH) to give the title compound as pale yellow oil (280 mg, 93%).

reactant | (4-oxaspiro[2.4]heptane-6-yl)methanesulfonate | 1.75 mmol, 336 mg | C1CC12OCC(C2)CS(=O)(=O)[O-]
reactant | 3-aminopropan-1-ol | 8.75 mmol, 656.3 mg | NCCCO | C3H9NO
reactant | THF | 3 mL | C1CCOC1 | C4H8O
product | (4-oxaspiro[2.4]heptane-6-yl)aminopropanol | 280 mg, 93% | C1CC12OCC(C2)NC(CC)O | C9H17NO2
